US07777047B2
ethyl 1-(methoxymethyl)-7-nitro-1H-indole-2-carboxylate
To a suspension of sodium hydride (60%, in oil, 0.51 g) in N,N-dimethylformamide (15 ml) was slowly added ethyl 7-nitro-1H-indole-2-carboxylate (2.50 g) at 0° C., and the mixture was stirred for 30 min. Chloromethyl methyl ether (1.00 ml) was added to the reaction mixture over 20 min at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (2.29 g, yield 77%) as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). melting point 62-63° C.

reactant | sodium hydride | 0.51 g | [H-].[Na+]
reactant | ethyl 7-nitro-1H-indole-2-carboxylate | 2.50 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10N2O4
reactant | Chloromethyl methyl ether | 1.00 ml | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(methoxymethyl)-7-nitro-1H-indole-2-carboxylate | 2.29 g, yield 77% | COCN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C(=O)OCC | C13H14N2O5
